US07067517B2
Methyl-phenyl-carbamic acid 4-[2-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)-ethyl]-phenyl ester
A solution of 3,3-dimethylglutaric anhydride (0.3 mmol), diisopropylethylamine (0.30 mmol) and N-methyl-N-phenyl-carbamic acid 4-(2-amino-ethyl)phenyl ester as its TFA salt (0.3 mmol) in CH2Cl2 (3 mL) was stirred 1 h at rt. Thionylchloride (3 mmol) was added and the mixture was stirred for 2 h at rt. Addition of ethanol (5 mL) followed by evaporation to dryness gave a crude product which was purified by flash chromatography (Quad flash 12, EtOAc-heptane 1:1). This gave the title compound in 23% yield as crystals. Furthermore 3,3-dimethyl-4-{2-[4-(methyl-phenyl-carbamoyloxy)-phenyl]-ethylcarbamoyl}-butyric acid ethyl ester could be isolated in 27% yield as an oil (see characterization below)

reactant | 3,3-dimethylglutaric anhydride | 0.3 mmol | CC1(CC(=O)OC(C1)=O)C | C7H10O3
reactant | diisopropylethylamine | 0.30 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methyl-N-phenyl-carbamic acid 4-(2-amino-ethyl)phenyl ester | NCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H18N2O2
reactant | TFA | 0.3 mmol | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Thionylchloride | 3 mmol | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | Methyl-phenyl-carbamic acid 4-[2-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)-ethyl]-phenyl ester | 23% yield | CC1(CC(N(C(C1)=O)CCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O)C | C23H26N2O4
